US04785116
10.1 parts of phosphorus oxytrichloride are added dropwise to 30 parts of dimethylformamide at 0° C., and the mixture is then stirred for a further 0.5 hour at this temperature. 3.7 parts of 5-aminoisothiazole-3,4-dicarboxamide are then introduced, a little at a time, into this solution while cooling with ice. The mixture is stirred for a further 2 hours at room temperature, after which it is poured into 100 parts of ice water. The precipitate is filtered off under suction, washed with water and dried to give 3.8 parts (93% of theory) of N,N-dimethyl-N'-(3,4-dicyanoisothiazol-5-yl)-formamidine.

reactant | phosphorus oxytrichloride | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-aminoisothiazole-3,4-dicarboxamide | NC1=C(C(=NS1)C(=O)N)C(=O)N | C5H6N4O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N-dimethyl-N'-(3,4-dicyanoisothiazol-5-yl)-formamidine | 93% | CN(C=NC1=C(C(=NS1)C#N)C#N)C | C8H7N5S
